US07741315B2
Step 2: Methyl 2-(allyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate
A mixture of methyl 2-(allyl)-6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (6.08 g, 14.92 mmol), cesium carbonate (6.08 g, 18.65 mmol), and iodomethane (2.79 mL, 44.77 mmol) in DMF (20 mL) was heated at 40° C. overnight. The reaction mixture was filtered and concentrated under vacuum. The residue was subjected to column chromatography on silica gel. Collection and concentration of appropriate fractions provided the title compound. (ES MS M+1=435.2)

reactant | methyl 2-(allyl)-6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 14.92 mmol, 6.08 g | C(C=C)N1C(=C2CCN(C(C2=C(C1=O)O)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OC | C20H18ClFN2O5
reactant | cesium carbonate | 18.65 mmol, 6.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 44.77 mmol, 2.79 mL | IC | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(allyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | C(C=C)N1C(=C2CCN(C(C2=C(C1=O)OC)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OC | C21H20ClFN2O5
